********************************************************************************************************
*
* Nexperia BUK6Y55-80P
* Polarity P - Channel
* Ratings 80V/42.0mOhm/35A
* Revision N#: 1.0
* Created on 2025-03-21 14:25:28
* Please visit www.nexperia.com for latest revision release
*
********************************************************************************************************
*
* Model generated by Nexperia
* Copyright(c) 2022
* All rights reserved
*
* Contains proprietary information which is the property of Nexperia.
*
********************************************************************************************************

.SUBCKT BUK6Y55-80P D G S

* Package impedance
LD D 5 20.80p
RLD2 D 5 52.28m
RLD1 5 4 100.0u
LG G 1 1.761n
RLG G 1 4.426
LS S 8 295.8p
RLS2 S 8 743.5m
RLS1 8 7 200u

* Drain,gate and source resistances
RD 3 4 38.05m TC= 9.838m,1.000n
RG 1 2 8.620
RS 6 7 1.000u

* Body Diode
RBD 9 4 4.354m TC= 4.000m,23.00u
DBD 9 7 D_DBD
RDS 7 4 59.57G TC= -5.000m

* Internal MOS
M1 3 2 6 6 MINT

* Gate leakage and gate capacitance
RGS 2 6 402.8G
CGS 2 6 2.044n

* CGD
C11 11 12 1E-12
V11 11 0 0Vdc
G11 2 3 VALUE {V(13,0)*I(V11)}
E11 12 0 2 3 1
E12 13 0 TABLE {V(12)}
+ (-10.0,2282.0)
+ (0.01,479.6)
+ (0.1,437.9)
+ (0.2,428.3)
+ (0.5,423.6)
+ (1.0,351.3)
+ (2.0,269.1)
+ (3.0,227.7)
+ (4.0,201.3)
+ (5.0,182.5)
+ (6.0,168.3)
+ (8.0,148.1)
+ (10.0,134.2)
+ (12.0,123.9)
+ (15.0,112.3)
+ (20.0,98.87)
+ (25.0,89.58)
+ (32.0,80.36)
+ (40.0,73.2)
+ (50.0,67.75)
+ (64.0,64.05)
+ (80.0,62.06)

.MODEL MINT PMOS Vto= -2.621 Kp= 56.45 Nfs= 636.8G Eta= 0.000
+ Level= 3 Gamma= 0.000 Phi= 600.0m Is= 1.000E-24 UO= 600.0
+ Js= 0.000 Pb= 800.0m Cj= 0.000 Cjsw= 0.000 Cgso= 0.000 Cgdo= 0.000 Cgbo= 0.000
+ Tox= 100.0n Xj= 0.000
+ Vmax= 15.00K

.MODEL D_DBD D Bv= 92.00 Ibv= 250.0u Rs= 1.000u Is= 737.8f
+ N= 1.000 M= 471.5m VJ= 343.4m Fc= 500.0m Cjo= 580p Tt= 18.50n

.ENDS BUK6Y55-80P

********************************************************************************************************
* - Limited warranty and liability -
*
* Information in this document is believed to be accurate and reliable. However,Nexperia does not give
* any representations or warranties,expressed or implied,as to the accuracy or completeness of such
* information and shall have no liability for the consequences of use of such information.
* Nexperia takes no responsibility for the content in this document if provided by an information source
* outside of Nexperia. In no event shall Nexperia be liable for any indirect,incidental,punitive,
* special or consequential damages (including - without limitation - lost profits,lost savings,
* business interruption,costs related to the removal or replacement of any products or rework charges)
* whether or not such damages are based on tort (including negligence),warranty,breach of contract or
* any other legal theory. Notwithstanding any damages that customer might incur for any reason whatsoever,
* Nexperia's aggregate and cumulative liability towards customer for the products described herein shall
* be limited in accordance with the Terms and conditions of commercial sale of Nexperia.
*
********************************************************************************************************